US09193719B2
A suspension of 2-chloro-4-((6-nitropyridin-3-yl)oxy)pyridine (14.38 g, 57.1 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (13.08 g, 62.9 mmol) and Cs2CO3 (55.9 g, 171 mmol) in DMF (150 mL) was sparged with Ar, treated with Pd(PPh3)4 (6.60 g, 5.71 mmol), sparged again with Ar and heated at 90° C. overnight. The mixture was cooled to RT, the solids removed via filtration through diatomaceous earth, washed with EtOAc and the filtrate concentrated to near-dryness. The residue was treated with EtOAc, washed with 5% LiCl (1×) and the aqueous layer back-extracted with EtOAc (4×). The combined organics were dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/DCM) to afford 2-(1-methyl-1H-pyrazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (12.28 g, 72%). 1H NMR (400 MHz, DMSO-d6): δ 8.59 (d, J=2.8 Hz, 1H), 8.49 (d, J=5.6 Hz, 1H), 8.41 (d, J=8.9 Hz, 1H), 8.29 (s, 1H), 8.00 (d, J=0.7 Hz, 1H), 7.97 (dd, J=8.9, 2.8 Hz, 1H), 7.44 (d, J=2.4 Hz, 1H), 6.97 (dd, J=5.6, 2.4 Hz, 1H), 3.85 (s, 3H); MS (ESI) m/z: 298.1 (M+H+).

reactant | 2-chloro-4-((6-nitropyridin-3-yl)oxy)pyridine | 57.1 mmol, 14.38 g | ClC1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C10H6ClN3O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 62.9 mmol, 13.08 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Cs2CO3 | 171 mmol, 55.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 5.71 mmol, 6.60 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-methyl-1H-pyrazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 12.28 g, 72% | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C14H11N5O3
